US04511504
N-(tertiarybutoxycarbonyl)-L-leucine N-phenethylamide (6.17 g, mole) was dissolved in a 1:1 TFA/CH2Cl2 mixture (60 ml). After stirring for 6 h at 20° the reaction mixture was concentrated in vacuo and the residue in CH2Cl2 (50 ml) washed with saturated aq. NaHCO3 (100 ml). The aqueous extract was back extracted with CH2Cl2 (50 ml×3) and the combined organic extracts concentrated to an oil in vacuo. The crude L-leucine N-phenethylamide so obtained was used as such in the next step.

reactant | N-(tertiarybutoxycarbonyl)-L-leucine N-phenethylamide | 6.17 g | C(CC1=CC=CC=C1)NC([C@@H](NC(=O)OC(C)(C)C)CC(C)C)=O | C19H30N2O3
solvent | TFA CH2Cl2 | 60 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | L-leucine N-phenethylamide | C(CC1=CC=CC=C1)NC([C@@H](N)CC(C)C)=O | C14H22N2O
